US07396844B1
Synthesis of benzyl (3R)-3-t-butoxycarbonylamino-4-(5-cyano-2-iodophenoxy)butanoate
10.16 g (32.8 mmol) of benzyl (3R)-3-t-butoxycarbonylamino-4-hydroxybutanoate was dissolved in 100 ml of toluene. 10.5 g (42.7 mmol) of 3-hydroxy-4-iodobenzonitrile, 11.2 g (42.7 mmol) of triphenylphosphine and 7.4 g (42.7 mmol) of N,N,N′,N′-tetramethylazodicarboxyamide were added to the solution under cooling with ice, and they were stirred at room temperature overnight. The solvent was distilled off, and the residue was purified by the silica gel column chromatography (volume ratio of hexane:ethyl acetate=2:1) to obtain the title compound.

reactant | benzyl (3R)-3-t-butoxycarbonylamino-4-hydroxybutanoate | 32.8 mmol, 10.16 g | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OCC1=CC=CC=C1)CO | C16H23NO5
reactant | 3-hydroxy-4-iodobenzonitrile | 42.7 mmol, 10.5 g | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | triphenylphosphine | 42.7 mmol, 11.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl (3R)-3-t-butoxycarbonylamino-4-(5-cyano-2-iodophenoxy)butanoate | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OCC1=CC=CC=C1)COC1=C(C=CC(=C1)C#N)I | C23H25IN2O5
